US07163937B2
Synthesis of (3R,4S)-methyl 1-isopropyl-4-((S)-2-oxo-3-(6-(trifluoromethyl)quinazolin-4-ylamino)pyrrolidin-1-yl)piperidine-3-carboxylate
(3R,4S)-Methyl 4-((3S)-3-amino-2-oxopyrrolidin-1-yl)-1-isopropylpiperidine-3-carboxylate (50 mg, 0.176 mmol, 1 eq.), 4-chloro-6-(trifluoromethyl)-quinazoline (45 mg, 0.194 mmol, 1.1 eq.) and triethylamine (98 uL, 0.706 mmol, 4 eq.) were dissolved in ethanol (3 mL) at room temperature then microwaved at 100° C. for 1 hour. Purified by HPLC. Obtained (3R,4S)-methyl 1-isopropyl-4-(2-oxo-(3S)-3-(6-(trifluoromethyl)quinazolin-4-ylamino)pyrrolidin-1-yl)piperidine-3-carboxylate, bis TFA salt (88 mg) as a white solid. LCMS detects (M+H)+=480.39. 1H NMR (400 MHz) (CD3OD) δ 8.82 (s, 1H, J=7 Hz); 8.20 (s, 1H, J=7 Hz); 8.78 (s, 1H, J=7 Hz); 7.91 (d, 1H, J=7 Hz); 7.30–7.10 (m, 1H); 5.37 (m, 1H); 4.3–4.05 (m, 1H); 3.80–3.00 (m, 9H); 2.60–2.45 (m, 1H); 2.45–2.10 (m, 2H); 2.10–1.80 (m, 2H); 1.27 (m, 6H).

reactant | (3R,4S)-Methyl 4-((3S)-3-amino-2-oxopyrrolidin-1-yl)-1-isopropylpiperidine-3-carboxylate | 0.176 mmol, 50 mg, 1 eq. | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](CN(CC1)C(C)C)C(=O)OC)=O | C14H25N3O3
reactant | 4-chloro-6-(trifluoromethyl)-quinazoline | 0.194 mmol, 45 mg, 1.1 eq. | ClC1=NC=NC2=CC=C(C=C12)C(F)(F)F | C9H4ClF3N2
reactant | triethylamine | 0.706 mmol, 98 uL, 4 eq. | C(C)N(CC)CC | C6H15N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | (3R,4S)-methyl 1-isopropyl-4-((S)-2-oxo-3-(6-(trifluoromethyl)quinazolin-4-ylamino)pyrrolidin-1-yl)piperidine-3-carboxylate | C(C)(C)N1C[C@H]([C@H](CC1)N1C([C@H](CC1)NC1=NC=NC2=CC=C(C=C12)C(F)(F)F)=O)C(=O)OC | C23H28F3N5O3
